US08293923B2
Into a round-bottom flask was dissolved 5-bromo-1H-indazole (1.99 g, 0.0101 mol) in N,N-dimethylformamide (10.0 mL). To this stirred solution was added potassium hydroxide (2.03 g, 0.0362 mol) then a cold solution of iodine (2.82 g, 0.0111 mol) in N,N-dimethylformamide (12.0 mL, 0.155 mol) was added dropwise. The mixture was stirred at room temperature for 2 hours before being added dropwise to an ammonium hydroxide (150 mL, 3.8 mol) solution in water (2.0 L) to give a precipate. The precipitate was collected and dried under vacuum for 18 hours to yield 3.00 g (92%) of 5-bromo-3-iodo-1H-indazole.

reactant | 5-bromo-1H-indazole | 0.0101 mol, 1.99 g | BrC=1C=C2C=NNC2=CC1 | C7H5BrN2
reactant | potassium hydroxide | 0.0362 mol, 2.03 g | [OH-].[K+]
reactant | iodine | 0.0111 mol, 2.82 g | II | I2
reactant | ammonium hydroxide | 3.8 mol, 150 mL | [OH-].[NH4+]
solvent | N,N-dimethylformamide | 10.0 mL | CN(C=O)C | C3H7NO
solvent | water | 2.0 L | O | H2O
solvent | N,N-dimethylformamide | 0.155 mol, 12.0 mL | CN(C=O)C | C3H7NO
product | 5-bromo-3-iodo-1H-indazole | 3.00 g, 92% | BrC=1C=C2C(=NNC2=CC1)I | C7H4BrIN2
